US08470803B2
To a solution of 4-(4-bromo-3-methylphenylamino)benzonitrile (5.35 g, 18.63 mmol) in tetrahydrofuran (200 mL) was added di-tert-butyl dicarbonate (6.1 g, 27.95 mmol) followed by 4-N,N-dimethylaminopyridine (2.28 g, 18.63 mmol). The reaction mixture was stirred at room temperature for 30 minutes. Then most of the solvent was removed under reduced pressure. Water was added and the mixture was extracted with ethyl acetate. The organic layer was washed with water, brine and dried on anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by silica gel column (9:1 hexane/ethyl acetate) to give tert-butyl N-(4-bromo-3-methylphenyl)-N-(4-cyanophenyl)carbamate (6.79 g, 94%).

reactant | 4-(4-bromo-3-methylphenylamino)benzonitrile | 18.63 mmol, 5.35 g | BrC1=C(C=C(C=C1)NC1=CC=C(C#N)C=C1)C | C14H11BrN2
reactant | di-tert-butyl dicarbonate | 27.95 mmol, 6.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | tert-butyl N-(4-bromo-3-methylphenyl)-N-(4-cyanophenyl)carbamate | 6.79 g, 94% | BrC1=C(C=C(C=C1)N(C(OC(C)(C)C)=O)C1=CC=C(C=C1)C#N)C | C19H19BrN2O2
